US04767766
Step A: Preparation of 4-Cyano-3-(4-methoxyphenyl)methylmercaptopyridine
A solution of 6.2 g (40 mmol) of p-methoxybenzylmercaptan in 9.8 mL of 4.4M sodium methoxide in methanol was added dropwise to a solution of 5.52 g (40 mmol) of 3-chloro-4-cyanopyridine in dry acetonitrile that has been cooled in an ice bath. After addition was complete the solution was allowed to warm to room temperature over 2 hours. The solvent was concentrated and the residue was partitioned between dichloromethane and water. The aqueous layer was extracted with two portions of dichloromethane and the combined extracts were washed with brine, dried (MgSO4) and concentrated to afford 6.1 g (60%) of a pale yellow crystalline solid, m.p. 80°-81° C.

reactant | p-methoxybenzylmercaptan | 40 mmol, 6.2 g | COC1=CC=C(CS)C=C1 | C8H10OS
reactant | 3-chloro-4-cyanopyridine | 40 mmol, 5.52 g | ClC=1C=NC=CC1C#N | C6H3ClN2
solvent | sodium methoxide | 4.4M, 9.8 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-Cyano-3-(4-methoxyphenyl)methylmercaptopyridine | 6.1 g, 60% | C(#N)C1=C(C=NC=C1)SCC1=CC=C(C=C1)OC | C14H12N2OS
